Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Right peripheral vision loss and speech disturbance
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ right-handed male with no known past
medical history transferred from ___ where he was sent
by PCP after presenting with 2 months of subtle cognitive 
decline
and right peripheral visual loss, with imaging concerning for
subacute L MCA stroke and left M1 stenosis.    

His wife reports that he was in his usual state of health until
about 2 months ago when she recalls they were at church and he
couldn't read well in front of the congregation (both issues 
that
he couldn't see well and his speech seemed off).  He went home
and rested and was not further evaluated.  Over the last 2 
months
she thinks he has been a little forgetful-will sometimes forget
where he put his wedding ring, or names of old friends, but
nothing particularly out of the ordinary.  He hasn't forgotten
where he was, or done strange things like putting his keys in 
the
refrigerator.  He generally sleeps from 8p to 8a and sometimes
takes naps in the afternoon.  They go on long walks every day. 
He retired from his job in ___, and she does think he has
some difficulty with comprehending things he reads so she helps
him with emails and bills at times.  In addition she recalls 
that
he has had decreased vision in his right periphery for several
months (he can't see things in his right visual field), so he is
no longer driving.  This has not been evaluated further.  

As he had not seen a doctor in many years, they went to see a 
new
PCP yesterday who was concerned about his cognition.  He
reportedly could not answer some of the doctor's questions and
his answers were "disjointed", although she cannot specify
exactly what the problems were.  She states these aren't types 
of
questions she asks him frequently so not something she would 
have
noticed.  Due to the PCP's concerns he recommended a brain MRI
which was completed this morning.  Due to the findings on the 
MRI
including "numerous acute and subacute infarcts of the left MCA
territory, the largest of which is located within the left
posterior temporal lobe with evidence of laminar necrosis, with
numerous chronic lacunar infarcts of the left frontal white
matter, left thalamus and brainstem" he was sent to ___.  There he was noted to have an ___ 7 (Questions 2, Visual
1, Limb ataxia 1, Language 2, Dysarthria 1).  He had a CTA with
severe L M1 stenosis.  He received ASA 324mg at 18:24 and was
started on a nicardipine gtt for hypertension (BPs as high as
225/107).  He was transferred to ___ for further evaluation.  

Initially in the ___ ___ he was noted only to have R facial
numbness (NIHSS 1), however shortly after arrival he was
triggered for decreased responsiveness and increased right sided
weakness and he had SBP in 100s so nicardipine gtt was stopped,
he was given IVF and head of bed put in reverse Trendelenberg. 
His exam slowly improved as his blood pressure increased to the
150s-170s.  

 
Past Medical History:
No known medical problems per his wife, has not seen a doctor in
many years

 
Social History:
___
Family History:
Father died at ___ from "smoking, drinking, unhealthy 
lifestyle"
No known family history of early strokes

 
Physical Exam:
ADMISSION EXAMINATION
=====================
Vitals: T: 99.6  P: 86  R: 18  BP: 171/107  SaO2: 96% RA 
 
General: Lying on stretcher, sleepy but arousable, NAD
HEENT: NC/AT, short gray hair, no scleral icterus noted, MMM 
Neck: Supple, no nuchal rigidity
Pulmonary: Normal work of breathing on RA
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted

Neurologic:
-Mental Status: Awake, alert when examined but then falls back 
to
sleep.  He is unable to relate history due to severe expressive
aphasia.  He makes some noises but no clear words. Able to 
follow
simple commands (squeeze my hand).   
-Cranial Nerves:   PERRL 4 to 2mm and brisk. EOMI without
nystagmus. Decreased BTT on right.  Right facial palsy. Hearing
appears intact to finger-rub bilaterally. Palate elevates
symmetrically. Tongue protrudes midline. 
-Motor: Patient moves all extremities antigravity, LUE > RUE.  
He
is able to hold both legs in the air for 10 seconds equally. 
Does not participate in confrontational testing. No abnormal
movements noted. 
-Sensory: Withdraws to noxious stimuli throughout
-DTRs: 1+ at biceps, patellae and ankles bilaterally, no clonus,
toes mute

DISCHARGE EXAMINATION
=====================
 Vitals: T: 98.6  HR: 63 [54-77]  BP: 149/89 [119-188/77-120] 
RR: 16  SpO2: 94% RA
 General: awake, cooperative, NAD
 HEENT: NC/AT, no scleral icterus noted, MMM
 Pulmonary: breathing comfortably, no tachypnea or increased WOB
 Cardiac: skin warm, well-perfused
 Abdomen: soft, ND
 Extremities: symmetric, no edema

Neurologic:

-Mental Status: Alert, oriented to hospital. Fluent aphasia with 
intact
repetition, reading, and comprehension, able to name ___- but 
not ___ objects. Favors left side of images on stroke 
card.

-Cranial Nerves: Right inferior > superior visual field deficit 
with extinction to DSS in right superior field. EOMI without 
nystagmus. R NLFF. Hearing intact to conversation. Palatal 
elevation symmetric. Tongue protrudes in midline.

-Motor: R pronator drift. No adventitious movements, such as 
tremor, noted. Maintains all extremities against gravity.

-Sensory: Deferred.

-DTRs: ___.

-Coordination: Deferred.
 
Pertinent Results:
___ 06:00AM BLOOD WBC-13.5* RBC-5.31 Hgb-15.1 Hct-45.2 
MCV-85 MCH-28.4 MCHC-33.4 RDW-14.5 RDWSD-44.6 Plt ___
___ 06:00AM BLOOD Glucose-101* UreaN-25* Creat-1.3* Na-143 
K-4.2 Cl-108 HCO3-23 AnGap-12
___ 06:00AM BLOOD Calcium-9.2 Phos-2.9 Mg-1.9
___ 05:45AM BLOOD CK-MB-3 cTropnT-<0.01
___ 08:40PM BLOOD cTropnT-0.02*
___ 05:45AM BLOOD ALT-17 AST-19 LD(LDH)-185 CK(CPK)-117 
AlkPhos-115 TotBili-0.6
___ 05:45AM BLOOD %HbA1c-5.7 eAG-117
___ 05:45AM BLOOD Triglyc-89 HDL-37* CHOL/HD-4.8 
LDLcalc-122
___ 05:45AM BLOOD TSH-3.3
___ 05:45AM BLOOD CRP-4.4 ESR-2
___ 08:40PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 09:45PM URINE Color-Yellow Appear-Clear Sp ___
___ 09:45PM URINE Blood-SM* Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-6.0 Leuks-NEG
___ 09:45PM URINE RBC-25* WBC-2 Bacteri-NONE Yeast-NONE 
Epi-0
___ 9:45 pm URINE      Source: ___. 
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ 1:15 AM CT HEAD W/O CONTRAST 
1. Probable subacute infarct posterior left temporal, occipital 
lobes. 
2. Multiple small infarcts, likely chronic, at the deep 
watershed territory left frontal, parietal lobes.  Exclude more 
proximal, central stenosis. 
3. If there is concern for acute infarct, recommend brain MRI. 

___ 14:05 TTE
The left atrial volume index is normal. There is no evidence of 
an atrial septal defect or patent foramen ovale by 2D/color 
Doppler/agitated saline with maneuvers. There is normal left 
ventricular wall thickness with a
normal cavity size. Global left ventricular systolic function is 
mildly depressed secondary to hypokinesis of the inferior and 
posterior walls. Quantitative biplane left ventricular ejection 
fraction is 49 %. The visually estimated left ventricular 
ejection fraction is 45%. There is no resting left ventricular 
outflow tract gradient. Normal right ventricular cavity size 
with normal free wall motion. The aortic sinus diameter is 
normal with mildly dilated ascending aorta. The aortic arch is 
mildly dilated. The aortic valve leaflets (3) are mildly 
thickened. There is no aortic valve stenosis. There is no aortic 
regurgitation. The mitral leaflets appear structurally normal 
with no mitral valve prolapse. There is trivial mitral 
regurgitation. The tricuspid valve leaflets appear structurally 
normal. There is physiologic tricuspid regurgitation. The 
estimated pulmonary artery systolic pressure is normal. There is 
no pericardial effusion.

 
Brief Hospital Course:
___ man without known past medical history (though with 
limited prior contact with healthcare providers) transferred 
from ___ after presenting to his primary care provider 
with subacute right peripheral vision loss and speech 
disturbance, found to have acute and subacute left MCA ischemic 
infarcts on outpatient MRI. Follow-up imaging at ___ 
prior to transfer notable for left M1 segment MCA stenosis as 
well as bilateral intracranial vertebral artery and basilar 
stenosis. Accordingly, etiology of infarcts most likely 
atheroembolic given involvement of one vascular distribution in 
the setting of proximal vascular stenosis, with cardioembolic 
etiology less likely on the differential. Aspirin, clopidogrel 
(for three months), and atorvastatin started for secondary 
stroke prevention.

Hospital course also notable for hypertension, for which 
captopril was initiated and may be titrated as needed prior to 
conversion to lisinopril. Note also made of inferior and 
posterior wall hypokinesis on TTE suggestive of underlying CAD, 
for which outpatient cardiology follow-up was recommended. 
Laboratory testing also notable for elevated baseline creatinine 
suggestive of chronic kidney disease, for which additional 
evaluation and management should be considered as an outpatient.

TRANSITIONAL ISSUES
1. Dual antiplatelet therapy for 3 months, then aspirin and 
atorvastatin indefinitely.
2. Outpatient cardiac rhythm monitoring for one month to assess 
for paroxysmal atrial fibrillation.
3. Outpatient referrals to Neurology and Cardiology, with 
consideration to Nephrology follow-up.
4. Outpatient titration of captopril prior to conversion to 
lisinopril.

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:  
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 122) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A  

 
Medications on Admission:
None
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM  
3.  Captopril 25 mg PO TID 
Hold for SBP < 100  
4.  Clopidogrel 75 mg PO DAILY Duration: 3 Months  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
1. Multifocal left middle cerebral artery ischemic infarcts
2. Hypertension
3. Chronic kidney disease
 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Mr. ___,

You were transferred to ___ 
from ___ for evaluation of right peripheral vision loss 
and speech disturbance. An MRI done prior to your arrival there 
showed that your symptoms were due to several new and older 
strokes on the left side of your brain; follow-up blood vessel 
imaging at ___ showed narrowing of several blood vessels 
in your brain that likely caused your strokes. You were started 
on new medications to reduce your risk of stroke: aspirin and 
atorvastatin, which you will need to take indefinitely, as well 
as clopidogrel, which you will need to take for the next three 
months. You were also found to have high blood pressures, for 
which you were started on a new medication (captopril) that may 
continue to be adjusted at your acute rehabilitation facility 
before being switched to a once-daily medication.

During your stay, you were also found to have signs of prior 
damage to your heart, for which you should follow up with a 
cardiologist. Blood tests also showed signs of chronic kidney 
disease, for which your primary care provider may refer you to a 
nephrologist.

Please follow up with your primary care provider within one week 
of discharge from your acute rehabilitation facility. Your 
primary care provider can help refer you to a neurologist and a 
cardiologist, as well as with a nephrologist if needed. Your 
primary care provider can also arrange for you to have cardiac 
monitoring for one month to look for an abnormal heart rhythm 
(atrial fibrillation) that could predispose you to strokes.

It was a pleasure taking care of you at ___.

Sincerely,
___ Neurology

 
Followup Instructions:
___